US04638000
In hydrogen chloride-ethyl acetate solution (5N, 5 ml) is dissolved 0.2 g of tert-butyl 3(R)-[1(S)-ethoxycarbonyl-3-phthalimidopropyl]amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzothiazepine-5-acetate, and the solution is allowed to stand at room temperature for 4 hours. Petroleum ether (100 ml) is added to the reaction solution, and the deposited precipitate is collected by filtration to give 0.18 g of 3(R)-[1(S)-ethoxycarbonyl-3-phthalimidopropyl]amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzothiazepine-5-acetic acid.hydrochloride as a colorless powder.

reactant | tert-butyl 3(R)-[1(S)-ethoxycarbonyl-3-phthalimidopropyl]amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzothiazepine-5-acetate | 0.2 g | C(C)OC(=O)[C@H](CCN1C(C=2C(C1=O)=CC=CC2)=O)N[C@H]2CSC1=C(N(C2=O)CC(=O)OC(C)(C)C)C=CC=C1 | C29H33N3O7S
reactant | hydrogen chloride-ethyl acetate | 5N, 5 ml | C(C)(=O)OCC.Cl
product | 3(R)-[1(S)-ethoxycarbonyl-3-phthalimidopropyl]amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzothiazepine-5-acetic acid.hydrochloride | 0.18 g | Cl.C(C)OC(=O)[C@H](CCN1C(C=2C(C1=O)=CC=CC2)=O)N[C@H]2CSC1=C(N(C2=O)CC(=O)O)C=CC=C1 | InChI=1S/C25H25N3O7S.ClH/c1-2-35-25(34)17(11-12-27-22(31)15-7-3-4-8-16(15)23(27)32)26-18-14-36-20-10-6-5-9-19(20)28(24(18)33)13-21(29)30;/h3-10,17-18,26H,2,11-14H2,1H3,(H,29,30);1H/t17-,18-;/m0./s1
